US07312225B2
1h) Production of N-(5-Bromo-2-chloro-pyrimidin-4-yl)-propane-1,3-diamine Hydrochloride
A solution of 5.0 g (13.7 mmol) of [3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-carbamic acid-tert-butyl-ester in 150 ml of acetonitrile is mixed with 25 ml of a 4 molar solution of hydrochloric acid in dioxane and stirred at room temperature. After 4 hours, the solvent is drawn off in a rotary evaporator, and the residue is dried in a drying oven. 4.1 g (13.7 mmol, corresponding to 100% of theory) of the product is obtained.

reactant | [3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-carbamic acid-tert-butyl-ester | 13.7 mmol, 5.0 g | C(C)(C)(C)OC(NCCCNC1=NC(=NC=C1Br)Cl)=O | C12H18BrClN4O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(5-Bromo-2-chloro-pyrimidin-4-yl)-propane-1,3-diamine Hydrochloride | Cl.BrC=1C(=NC(=NC1)Cl)NCCCN | InChI=1S/C7H10BrClN4.ClH/c8-5-4-12-7(9)13-6(5)11-3-1-2-10;/h4H,1-3,10H2,(H,11,12,13);1H
